US08378104B2
Step C: 5-chlorothieno[2,3-c]pyridine
A mixture of 5,7-dichlorothieno[2,3-c]pyridine (1.86 g, 8.20 mmol), AcOH (9.42 mL, 164 mmol), and concentrated HCl (3.16 mL, 38.4 mmol) was treated with tin powder (3.04 g, 24.6 mmol) at 60° C. After 3 h heating, another portion of concentrated HCl (3.16 mL) was added followed by another portion of tin powder (3.04 g). After 2 h heating, another portion of concentrated HCl (3.16 mL) was added followed by tin powder (1.03 g). After 2 h, the heating was stopped, and the reaction mixture was cooled and diluted with water (50 mL). After filtration, the residue was washed with water. The combined filtrates were extracted with EtOAc (4×100 mL). The combined extracts were washed with aqueous 1 N NaOH until the pH was >9, followed by brine (100 mL), dried over MgSO4, and concentrated in vacuo. Purification by ISCO chromatography (0 to 30% EtOAc:heptane) afforded 980 mg (70%) of the title compound as a white solid. 1H NMR (400 MHz, CDCl3): δ 8.93 (d, J=0.4 Hz, 1 H), 7.79 (d, J=6.4 Hz, 1 H), 7.75 (d, J=1.2 Hz, 1 H), 7.33 (dd, J=5.6, 0.8 Hz, 1 H); MS (ESI): 169.98, 171.98 [M+H]+; HPLC tR=1.29 min (TOF: polar—3 min).

reactant | 5,7-dichlorothieno[2,3-c]pyridine | 8.20 mmol, 1.86 g | ClC=1C=C2C(=C(N1)Cl)SC=C2 | C7H3Cl2NS
reactant | AcOH | 164 mmol, 9.42 mL | CC(=O)O | C2H4O2
reactant | HCl | 38.4 mmol, 3.16 mL | Cl | ClH
reactant | tin | 24.6 mmol, 3.04 g | [Sn] | Sn
reactant | HCl | 3.16 mL | Cl | ClH
reactant | tin | 3.04 g | [Sn] | Sn
reactant | HCl | 3.16 mL | Cl | ClH
reactant | tin | 1.03 g | [Sn] | Sn
solvent | water | 50 mL | O | H2O
product | 5-chlorothieno[2,3-c]pyridine | 980 mg, 70% | ClC=1C=C2C(=CN1)SC=C2 | C7H4ClNS
